US04742057
To a mixture of 2-amino-4-chloromethylthiazole hydrochloride (50 g), anhydrous N,N-dimethylformamide (250 ml) and anhydrous pyridine (50 ml) was added dropwise propionyl chloride (30 g) keeping the temperature below 3° C. with stirring and the mixture was stirred for 20 minutes at the same temperature. The reaction mixture was poured into ice water (1500 ml) and stirred. The crystal was collected by filtration and washed with water to give 2-propionylamino-4-chloromethylthiazole (28.15 g).

reactant | 2-amino-4-chloromethylthiazole hydrochloride | 50 g | Cl.NC=1SC=C(N1)CCl
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | propionyl chloride | 30 g | C(CC)(=O)Cl | C3H5ClO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-propionylamino-4-chloromethylthiazole | 28.15 g | C(CC)(=O)NC=1SC=C(N1)CCl | C7H9ClN2OS
